US04594601
To a mixture of 66.9 g of N-acetyl-2,4-diethoxyaniline and 70.7 g of bromobenzene, 29 g of anhydrous potassium carbonate, 2.1 g of copper powder and 0.8 g of iodine were added, and the mixture was reacted at a temperature of from 170° to 180° C. for 20 hours. Then, to this reaction mixture, 30 g of potassium hydroxide and 100 ml of isoamylalcohol were added, and the mixture was reacted at a temperature from 120° to 130° C. for 3 hours. Then, 300 ml of toluene was added thereto. The toluene layer was washed with water, separated by liquid separation, concentrated and then purified by distillation under reduced pressure, whereby 54 g of oily N-phenyl-2,4-di-ethoxyaniline was obtained. The boiling point of this product was from 180° to 185° C./3 mmHg.

reactant | N-acetyl-2,4-diethoxyaniline | 66.9 g | C(C)(=O)NC1=C(C=C(C=C1)OCC)OCC | C12H17NO3
reactant | bromobenzene | 70.7 g | BrC1=CC=CC=C1 | C6H5Br
reactant | potassium carbonate | 29 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium hydroxide | 30 g | [OH-].[K+]
catalyst | copper | 2.1 g | [Cu] | Cu
catalyst | iodine | 0.8 g | II | I2
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
solvent | isoamylalcohol | 100 ml | C(CC(C)C)O | C5H12O
product | N-phenyl-2,4-di-ethoxyaniline | 54 g | C1(=CC=CC=C1)NC1=C(C=C(C=C1)OCC)OCC | C16H19NO2
